US06426345B1
A mixture of 3-nitro-2-((E)-3-styrylphenylamino)pyridine (1.03 g) and 10% palladium on carbon (0.3 g) in methanol (20 ml) and 1,4-dioxane (20 ml) was stirred under hydrogen (3 atm) at room temperature for 1.5 hours. The catalyst was removed by filtration and the solvent was evaporated. The resulting solid was collected and washed with isopropyl ether to give 3-amino-2-(3-phenethylphenylamino)pyridine (835 mg).

reactant | 3-nitro-2-((E)-3-styrylphenylamino)pyridine | 1.03 g | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C1=CC=CC=C1 | C19H15N3O2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-amino-2-(3-phenethylphenylamino)pyridine | 835 mg | NC=1C(=NC=CC1)NC1=CC(=CC=C1)CCC1=CC=CC=C1 | C19H19N3
